US08633001B2
Production of (R)-diethyl 2-benzyloxycarbonylamino-2-carbamoylsuccinate
A solution of (R)-1-ethyl hydrogen 3-benzyloxycarbonylamino-3-ethoxycarbonylsuccinate (1.8 g) in THF (20 mL) was added with triethylamine (0.96 mL) and isobutyl chloroformate (0.84 mL, 0.87 g) in this order at −15° C. with stirring, and the mixture was stirred for 5 minutes. A solution of 25% aqueous ammonia (0.47 mL) was dropped into the reaction mixture at the same temperature. The reaction mixture was stirred at the same temperature for 1 hour, and then poured into diluted hydrochloric acid, the mixture was extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, in which elution was performed with n-hexane/ethyl acetate (1:1) for purification, and then crystallized from ethyl acetate/n-hexane to obtain the title compound (1.51 g, yield: 84%) as colorless crystals. Optical rotation [α]D25 was −5.7° (c 0.52, ethanol) and optical purity was 96.1% ee.

reactant | (R)-1-ethyl hydrogen 3-benzyloxycarbonylamino-3-ethoxycarbonylsuccinate | 1.8 g | C(C1=CC=CC=C1)OC(=O)N[C@](CC(=O)OCC)(C(=O)O)C(=O)OCC | C17H21NO8
reactant | isobutyl chloroformate | 0.84 mL, 0.87 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 0.47 mL | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 0.96 mL | C(C)N(CC)CC | C6H15N
product | (R)-diethyl 2-benzyloxycarbonylamino-2-carbamoylsuccinate | 1.51 g, yield: 84% | C(C1=CC=CC=C1)OC(=O)N[C@](C(=O)OCC)(CC(=O)OCC)C(N)=O | C17H22N2O7
